US05532267
6-Amidino-2-naphthyl 5-(cis-4-carboxy-1-cyclohexanoylaminomethyl)furan-2-carboxylate hydrochloride
The same procedures as in Example 3 were followed except for using 11.5 g of 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride and 15.5 g of cis-1,4-cyclohexanedicarboxylic acid, to obtain 5.0 g of the above-mentioned compound in crude form. The crude compound was dissolved in 100 ml of aqueous 90% methanol, 2% aqueous sodium hydrogencarbonate solution was added thereto, and the precipitated carbonate was collected by filtration and washed with water. The washed product was made into solution by addition of 10 ml of DMF and 0.5 ml of hydrochloric acid, and the solution was added dropwise to 150 ml of acetone while stirring and cooling with ice. The white solid thus precipitated was collected by filtration to obtain 1.3 g of the intended product.

reactant | 6-amidino-2-naphthyl 5-aminomethylfuran-2-carboxylate dihydrochloride | 11.5 g | Cl.Cl.NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N
reactant | cis-1,4-cyclohexanedicarboxylic acid | 15.5 g | [C@H]1(CC[C@@H](CC1)C(=O)O)C(=O)O | C8H12O4
product | 6-Amidino-2-naphthyl 5-(cis-4-carboxy-1-cyclohexanoylaminomethyl)furan-2-carboxylate hydrochloride | 5.0 g | Cl.C(=O)(O)[C@H]1CC[C@H](CC1)C(=O)NCC1=CC=C(O1)C(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | InChI=1S/C25H25N3O6.ClH/c26-22(27)18-6-5-17-12-19(8-7-16(17)11-18)34-25(32)21-10-9-20(33-21)13-28-23(29)14-1-3-15(4-2-14)24(30)31;/h5-12,14-15H,1-4,13H2,(H3,26,27)(H,28,29)(H,30,31);1H/t14-,15+;
